US07767680B2
Step iv. N-Benzyl4-(2-chlorophenyl)-N-isopropyl-2-morpholinopyrimidine-5-carboxamide
In a microwave tube was added 1 eq. of 4-(2-chlorophenyl)-2-morpholino pyrimidine-5-carboxylic acid (80 mg), 1.1 eq. of isopropyl benzylamine (43 mL), 2.5 eq. of triethylamine (80 mL) and 1.2 eq. of BtSO2Me in 4 mL of dioxane. The reaction mixture was heated to 160° C./300 W for 1200 sec. The crude product was purified by prep HPLC. ES+=451.0. NMR confirmed the structure.

reactant | 4-(2-chlorophenyl)-2-morpholino pyrimidine-5-carboxylic acid | 80 mg, 1 eq. | ClC1=C(C=CC=C1)C1=NC(=NC=C1C(=O)O)N1CCOCC1 | C15H14ClN3O3
reactant | isopropyl benzylamine | 43 mL, 1.1 eq. | C(C)(C)NCC1=CC=CC=C1 | C10H15N
reactant | triethylamine | 80 mL, 2.5 eq. | C(C)N(CC)CC | C6H15N
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-Benzyl4-(2-chlorophenyl)-N-isopropyl-2-morpholinopyrimidine-5-carboxamide | C(C1=CC=CC=C1)N(C(=O)C=1C(=NC(=NC1)N1CCOCC1)C1=C(C=CC=C1)Cl)C(C)C | C25H27ClN4O2
